US07807671B2
In a sealable flask, the N-(2-chloroethyl)-1H-pyrazol-3-amine (0.214 g, 1.47 mmol) were combined with 1.5 mL of dimethylamine (40% in H2O). The mixture flask was sealed, and the mixture was heated to 100° C. for 16 h. The mixture was cooled to rt, and transferred to a rb flask with MeOH. The solvent was removed under reduced pressure to give the N1,N1-dimethyl-N2-(1H-pyrazol-3-yl)ethane-1,2-diamine in quantitative yield. LCMS: m/e 155.3 (M+H)+, ret time 0.96 min (method 3).

reactant | N-(2-chloroethyl)-1H-pyrazol-3-amine | 1.47 mmol, 0.214 g | ClCCNC1=NNC=C1 | C5H8ClN3
reactant | dimethylamine | 1.5 mL | CNC | C2H7N
solvent | MeOH | CO | CH4O
product | N1,N1-dimethyl-N2-(1H-pyrazol-3-yl)ethane-1,2-diamine | quantitative yield | CN(CCNC1=NNC=C1)C | C7H14N4
